US07723368B2
Step 1) 3-(5-Bromo-2-fluoro-phenyl)-acrylic acid methyl ester
A solution of 5-Bromo-2-fluoro-benzaldehyde (1.0 g, 4.9 mmol) in anhydrous acetonitrile (20.0 mL) was added methyl(triphenylphosphoranylidene)acetate (3.3 g, 9.0 mmol) and heated to 95° C. for 12 h. The mixture was cooled, filtered and concentrated under reduced pressure. Silica gel chromatography (5% Ethyl acetate/petroleum ether) gave the title compound as a white solid (1.27 g, 99%) which was used directly in the next step.

reactant | 5-Bromo-2-fluoro-benzaldehyde | 4.9 mmol, 1.0 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | methyl(triphenylphosphoranylidene)acetate | 9.0 mmol, 3.3 g | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
solvent | acetonitrile | 20.0 mL | C(C)#N | C2H3N
product | 3-(5-Bromo-2-fluoro-phenyl)-acrylic acid methyl ester | 1.27 g, 99% | COC(C=CC1=C(C=CC(=C1)Br)F)=O | C10H8BrFO2
